US07238724B2
5-Methyl-4-oxo-pyrrolidine-1,2-dicarboxylic acid 1-tert-butyl ester 2-methyl ester
To a solution of 3.0 g of crude 5-methyl-4-oxo-pyrrolidine-1,2-dicarboxylic acid 1-tert-butyl ester in 25 mL of N,N-dimethylformamide was added 1.2 g (8.7 mmol) of K2CO3, and 1.2 mL (19.3 mmol) of methyl iodide. The mixture was stirred at 80° C. for 20 min, cooled to ambient temperature, then diluted with 125 mL of 0.2M HCl(aq.). This was extracted with diethyl ether (3×20 mL), then the combined ether layers were extracted with water (1×20 mL), and brine (1×20 mL), dried over MgSO4, filtered, and concentrated to an oil. The product was purified via silica gel chromatography, eluting with 20% ethyl acetate/hexanes to give the 2,5-cis isomer. The 2,5-trans isomer eluted slightly faster than the desired cis isomer. 1H NMR (300 MHz, DMSO-d6) δ ppm 1.30 (d, J=7.1 Hz, 3 H) 1.40 (m, 9 H) 2.59 (dd, J=19.2, 3.2 Hz, 1 H) 3.12 (dd, J=18.3, 11.2 Hz, 1 H) 3.66 (s, 3 H) 3.92 (q, J=6.8 Hz, 1 H) 4.63 (dd, J=10.7, 3.6 Hz, 1 H), NOE observed between H-2 and H-5, not observed in the corresponding trans isomer; MS (ESI) m/z=256 (M−H)+.

reactant | 5-methyl-4-oxo-pyrrolidine-1,2-dicarboxylic acid 1-tert-butyl ester | 3.0 g | C(C)(C)(C)OC(=O)N1C(CC(C1C)=O)C(=O)O | C11H17NO5
reactant | K2CO3 | 8.7 mmol, 1.2 g | C(=O)([O-])[O-].[K+].[K+]
reactant | methyl iodide | 19.3 mmol, 1.2 mL | CI | CH3I
solvent | N,N-dimethylformamide | 25 mL | CN(C=O)C | C3H7NO
solvent | HCl | 0.2M, 125 mL | Cl | ClH
product | 5-Methyl-4-oxo-pyrrolidine-1,2-dicarboxylic acid 1-tert-butyl ester 2-methyl ester | COC(=O)C1N(C(C(C1)=O)C)C(=O)OC(C)(C)C | C12H19NO5
